US05101048
Preparation of 3,5-dicyano-2-mercaptobenzonitrile
If the procedure described in Preparation LV is followed starting from 6 g (26.10-3 mol) of 2-bromo-3,5-dicyanobenzonitrile and 6 g (86.10-3 mol) of sodium thiomethylate, 6 g (quantitative yield) of the expected product are obtained in the form of an oil.

reactant | 2-bromo-3,5-dicyanobenzonitrile | 26.10-3 mol, 6 g | BrC1=C(C#N)C=C(C=C1C#N)C#N | C9H2BrN3
reactant | sodium thiomethylate | 86.10-3 mol, 6 g | C[S-].[Na+]
product | 3,5-dicyano-2-mercaptobenzonitrile | 6 g, quantitative yield | C(#N)C=1C(=C(C#N)C=C(C1)C#N)S | C9H3N3S
